US03984465
A stirred suspension of [1-oxo-2-isopropyl-2-(3-oxobutyl)-6,7-dichloro-5-indanyloxy]acetic acid (2.0 g., 0.0052 mole) in water (50 ml.) is cooled to 5° C. and treated over a 1/2 hour period with a solution of potassium borohydride (0.6 g., 0.11 mole). The reaction is stirred at 10°-15° C. for 1/2 hour then acidified with dilute aqueous hydrochloric acid affording [1-oxo-2-(3-hydroxybutyl)-2-isopropyl-6,7-dichloro-5-indanyloxy]acetic acid as a white solid which is filtered, rinsed with water and dried.

reactant | [1-oxo-2-isopropyl-2-(3-oxobutyl)-6,7-dichloro-5-indanyloxy]acetic acid | 0.0052 mole, 2.0 g | O=C1C(CC2=CC(=C(C(=C12)Cl)Cl)OCC(=O)O)(CCC(C)=O)C(C)C | C18H20Cl2O5
reactant | potassium borohydride | 0.11 mole, 0.6 g | [BH4-].[K+]
reactant | hydrochloric acid | Cl | ClH
solvent | water | 50 ml | O | H2O
product | [1-oxo-2-(3-hydroxybutyl)-2-isopropyl-6,7-dichloro-5-indanyloxy]acetic acid | O=C1C(CC2=CC(=C(C(=C12)Cl)Cl)OCC(=O)O)(C(C)C)CCC(C)O | C18H22Cl2O5
